US05326856
A 250 ml round bottom flask was charged with 4,190 g (0.0181 mol) of N-BOC-6-aminocaproic acid, 4.60 g of 9-fluorenylmethyl carbazate (FMOC), (prepared by the method of Carpino et. al., 1972, J. Org. Chem., 37:3404) and 35 ml of N,N-dimethylformamide. The reaction solution was cooled to 0° C. and then 3.75 g (0.0182 mol) of 1,3-dicyclohexylcarbodiimide (Aldrich) was added. The reaction mixture was allowed to stir for 2 h at 0° C. The white precipitate which formed during this time was filtered off and the solvents evaporated under reduced pressure. The distillation residue was applied to a 225 cc pad of silica gel (Merck), which was then washed with 1L of chloroform. The product was then eluted from the column using 1L of 50% methanol in chloroform. The solvents were evaporated from the desired eluent fractions to give 4.98 g (0.011 mol, 59% yield) of N-BOC-6-aminocaproic acid (N'-FMOC-hydrazide) as a yellow oil. 1H NMR (DMSO-d6) showed the peaks observed in the starting material and new protons in the aromatic region between 7-8 ppm (FMOC group).

reactant | N-BOC-6-aminocaproic acid | 0.0181 mol, 4,190 g | C(=O)(OC(C)(C)C)NCCCCCC(=O)O | C11H21NO4
reactant | 9-fluorenylmethyl carbazate | 4.60 g | C(NN)(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H14N2O2
reactant | 1,3-dicyclohexylcarbodiimide | 0.0182 mol, 3.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | N-BOC-6-aminocaproic acid (N'-FMOC-hydrazide) | 0.011 mol, 4.98 g, 59% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NNC(CCCCCNC(=O)OC(C)(C)C)=O | C26H33N3O5
